US08735362B2
Step B: [1,2]-Dithiolan-4-yl-carbamic acid tert-butyl ester
A solution of thioacetic acid S-(3-acetylsulfanyl-2-tert-butoxycarbonylamino-propyl) ester (330 mg) in ethanol (5 ml) was treated with 2.5 ml of 1N sodium hydroxide for 1 hour at room temperature. The yellow solid turned green-brown. The reaction mixture was diluted with dichloromethane (25 ml) and then an aqueous solution of 0.1M iodine (10 ml) was added dropwise. The reaction mixture was stirred at room temperature for 1 hour and quenched by addition of 1M sodium bisulfite solution. The organic layer was separated, washed with water, dried over sodium sulfate and the solvent evaporated in vacuo to afford the title product (170 mg). 1H-NMR (CDCl3, 400 MHz): 5.00 (br s, 1H), 4.90 (m, 1H), 3.15 (d, 2H), 3.05 (d, 2H), 1.40 (s, 9H).

reactant | thioacetic acid S-(3-acetylsulfanyl-2-tert-butoxycarbonylamino-propyl) ester | 330 mg | C(C)(=O)SCC(CSC(C)=O)NC(=O)OC(C)(C)C | C12H21NO4S2
reactant | sodium hydroxide | 1N, 2.5 ml | [OH-].[Na+]
reactant | iodine | 0.1M, 10 ml | II | I2
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | [1,2]-Dithiolan-4-yl-carbamic acid tert-butyl ester | 170 mg | C(C)(C)(C)OC(NC1CSSC1)=O | C8H15NO2S2
